US07230099B2
Step C: Preparation of [6-(5-aminomethyl-[1,3,4]oxadiazol-2-yl)-8-chloroimidazo[1,2-a]pyridin-7-yl]-(4-bromo-2-fluoro-phenyl)-amine.
(4-Bromo-2-fluoro-phenyl)-[8-chloro-6-(5-chloromethyl-[1,3,4]oxadiazol-2-yl)-imidazo[1,2-a]pyridin-7-yl]-amine (38 mg, 0.083 mmol) was dissolved in tetrahydrofuran (1 mL). Potassium iodide (14 mg, 0.083 mmol) was added and then ammonia (7 M solution in methanol, 0.30 mL, 2.08 mmol). The reaction mixture was stirred at room temperature for 16 hours. The solvent was removed under reduced pressure and the crude product was purified by flash column chromatography (gradient of 20:1 dichloromethane/methanol to 5:1) to yield the desired product (26 mg, 71%) as a yellow solid. MS ESI (+) m/z 437, 439 (M+, Cl, Br pattern) detected. 1H NMR (400 MHz, DMSO-d6) δ 9.35 (s, 1H), 8.33 (s, 1H), 8.17 (d, 1H), 7.70 (d, 1H), 7.51 (dd, 1H), 7.16 (d, 1H), 6.65 (t, 1H), 3.94 (s, 2H). 19F (376 MHz, DMSO-d6) −128.3 (t).

reactant | (4-Bromo-2-fluoro-phenyl)-[8-chloro-6-(5-chloromethyl-[1,3,4]oxadiazol-2-yl)-imidazo[1,2-a]pyridin-7-yl]-amine | 0.083 mmol, 38 mg | BrC1=CC(=C(C=C1)NC1=C(C=2N(C=C1C=1OC(=NN1)CCl)C=CN2)Cl)F | C16H9BrCl2FN5O
reactant | Potassium iodide | 0.083 mmol, 14 mg | [I-].[K+]
reactant | ammonia | 2.08 mmol, 7 M, 0.30 mL | N | H3N
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | [6-(5-aminomethyl-[1,3,4]oxadiazol-2-yl)-8-chloroimidazo[1,2-a]pyridin-7-yl]-(4-bromo-2-fluoro-phenyl)-amine | 26 mg, 71% | NCC1=NN=C(O1)C=1C(=C(C=2N(C1)C=CN2)Cl)NC2=C(C=C(C=C2)Br)F | C16H11BrClFN6O
